US07713978B2
Description 14: 1,1-Dimethylethyl (2R,6S)-4-[6-({[2-chloro-4-(4-methyl-2-thienyl)phenyl]sulfonyl}amino)-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate (D14)
1,1-Dimethylethyl (2R,6S)-4-[6-{[(4-bromo-2-chlorophenyl)sulfonyl]amino}-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate (D13) (0.15 g, 0.254 mmol), 4-methylthiophene-2-boronic acid (0.054 g, 0.382 mmol), (1,1′-Bis(diphenylphosphino)ferrocene)palladium(II) chloride, DCM complex (9.2 mg, 0.0127 mmol), sodium carbonate (0.053 g, 0.508 mmol) were heated in DME (2 mL) and water (1 mL) at 120° C. in the microwave for 20 minutes. The reaction was then diluted with ethyl acetate (50 mL) and washed with saturated sodium hydrogen carbonate (2×30 mL) and brine (30 mL). The organic layer was dried (MgSO4) and evaporated to give a dark brown oil which was purified by chromatography [silica gel, eluting with 0 to 50% Ethyl acetate/pentane]. Product fractions evaporated to give a pale yellow foam (D14) (0.127 g) MS (ES+) m/e 607/609 [M+H]+.

reactant | 1,1-Dimethylethyl (2R,6S)-4-[6-{[(4-bromo-2-chlorophenyl)sulfonyl]amino}-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate | 0.254 mmol, 0.15 g | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=C(C=CC(=N1)N1C[C@H](N([C@H](C1)C)C(=O)OC(C)(C)C)C)OC)Cl | C23H30BrClN4O5S
reactant | 4-methylthiophene-2-boronic acid | 0.382 mmol, 0.054 g | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | sodium carbonate | 0.508 mmol, 0.053 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1 mL | O | H2O
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl (2R,6S)-4-[6-({[2-chloro-4-(4-methyl-2-thienyl)phenyl]sulfonyl}amino)-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate | ClC1=C(C=CC(=C1)C=1SC=C(C1)C)S(=O)(=O)NC1=C(C=CC(=N1)N1C[C@H](N([C@H](C1)C)C(=O)OC(C)(C)C)C)OC | C28H35ClN4O5S2
